US09238640B2
To a solution of 4-cyanomethyl benzoic acid methyl ester (2.63 g, 15 mmol) in anhydrous toluene (100 mL) was added sodium azide (1.95 g, 30 mmol) and triethylamine hydrochloride (4.13 g, 30 mmol). The reaction mixture was stirred at 100° C. for 24 hours under nitrogen. The reaction mixture was cooled to room temperature, then extracted with water (2×100 mL). The aqueous layer was acidified with concentrated HCl to pH approximately 4. The white solid was filtered off, washed with water, and dried under vacuum at 40° C. overnight, to give methyl-4-(1H-tetrazol-5-ylmethyl)benzoate (2.88 g, 88%) as an off-white solid.

reactant | 4-cyanomethyl benzoic acid methyl ester | 15 mmol, 2.63 g | COC(C1=CC=C(C=C1)CC#N)=O | C10H9NO2
reactant | sodium azide | 30 mmol, 1.95 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 30 mmol, 4.13 g | Cl.C(C)N(CC)CC
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | methyl-4-(1H-tetrazol-5-ylmethyl)benzoate | 2.88 g, 88% | COC(C1=CC=C(C=C1)CC1=NN=NN1)=O | C10H10N4O2
